Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / azithromycin / Ceclor / Ceclor / Betadine / 
clindamycin / bactrim
 
Attending: ___
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G4P2 @ ___ presents for evaluation after an episode
of bright red bleeding that soaked her underwear and through her
pants. Bleeding slowed quickly to spotting on toilet paper and
now no further bleeding. Denies LOF, +FM. Denies trauma,
intercourse. Rh neg s/p rhogam in first trimester for vaginal
spotting (___). Has some mild nausea and reports diarrhea
yesterday. Denies ctx, has mild low back "cramping." Denies
fevers/chills.
Denies urinary urgency, dysuria.

 
Past Medical History:
PNC:
*) Dating: EDC: ___ by LMP  
*) Labs:  A neg /Ab neg / RPRNR / RI / HbsAg neg / HIV unknown /
GBS pending ___
*) Routine:
- GTT was scheduled for tmr -> delay until 1 wk s/p 
betamethasone
- U/S: nl full fetal survey, posterior placenta, boy
- Genetics - low risk serum screening per pt 
- had flu vaccine
*) Issues
- rh neg
- spotting in first trimester s/p rhogam
POBHx:
- VAVD x 2, 7#10, 7#8 -> no issues, full term
- ectopic x 1 -> treated surgically
PGynHx: Denies STDs or abnl  paps, regular monthly menses

PMH: asthma -> rare use of albuterol, hospitalized as teen, no
intubations, recurrent c. dif -> no issues recently

PSH: lsc appy, lsc salpingectomy for ectopic

All: amoxicillin, PCN, erythromycin, clindamycin, ceclor,
betadine, bactrim

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On admission:
PE: T 98.4 HR 102 BP 118/68
NAD
no CVA tenderness, reproducible pain in mid low back
RRR
Abd soft, gravid, NT
SSE: nl appearing external genitalia and vaginal mucosa,
physiologic discharge, no blood in vault, cervix visually closed
without lesions or bleeding, does not appear friable
SVE: long/closed, no blood on exam glove

FHT: bl 130, mod var, +accels, no decels, AGA
Toco: rare ctx -> not felt

TAUS: FHR 140s, breech, posterior placenta, AFI 17.9cm
EFW 1337g consistent with GA 29wks

On discharge:
VSS
Gen: NAD
Abd: soft, NT

 
Pertinent Results:
On admission:

___ 03:17PM BLOOD WBC-13.9* RBC-3.46* Hgb-10.3* Hct-31.9* 
MCV-92 MCH-29.7 MCHC-32.3 RDW-13.9 Plt ___
___ 03:17PM BLOOD ___ PTT-27.1 ___
___ 03:17PM BLOOD ___

___ 4:23 pm ANORECTAL/VAGINAL CULTURE      Source: 
Anorectal. 

                            **FINAL REPORT ___

   R/O GROUP B BETA STREP (Final ___: 
      NEGATIVE FOR GROUP B BETA STREP. 

Ultrasound (___):

EFW 1255 (69%), vertex, posterior placenta with no evidence of 
previa or retroplacental clot

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the antepartum service 
after presenting with a significant amount of vaginal bleeding 
at 27 weeks pregnant. Her labs were within normal limits, and an 
ultrasound performed on ___ revealed no evidence of 
retroplacental clot or previa. Given that she is Rh negative, 
she received Rhogam on ___. A KB was checked and was found to 
be negative. Given concern for abruption, she was given 
betamethasone for fetal lung maturity on ___ and was thus 
betamethasone complete on ___.

She was observed, and had reassuring fetal testing daily, as 
well as no further episodes of bleeding. She was discharged home 
on hospital day 5.

 
Medications on Admission:
protonix, ambien rarely, PNV, albuterol prn

 
Discharge Medications:
1. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 27 weeks gestation
vaginal bleeding

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the antepartum service for observation 
after an episode of vaginal bleeding. Your bleeding resolved 
while you were here. You had no evidence of preterm labor. You 
received a course of steroids for fetal lung maturity. Fetal 
testing was reassuring during this admission.
 
Followup Instructions:
___